US08389507B2
a) (S)-2-[(4-Chloro-phenylamino)-methyl]-azetidine-1-carboxylic acid tert-butyl ester
To a solution of 4-chloro-aniline (0.57 g, 4.5 mmol) in methanol (18 ml) were added acetic acid (2 ml), (S)-2-formyl-azetidine-1-carboxylic acid tert.butyl ester (1.74 g, 9.4 mmol) and after 15 min stirring sodium cyanoborohydride (0.57 g, 9.0 mmol). The resulting suspension was stirred for 2 hours at room temperature. Aqueous sodium bicarbonate solution (20 ml) was added and the mixture was extracted with ethyl acetate (3×20 ml). The combined organic layers were dried with magnesium sulphate, filtered and concentrated in vacuo. The residue was purified by flash chromatography (SiO2: heptane/ethyl acetate=9:1) to yield a colourless oil (0.99 g, 74%); MS (ISP): 297.1 ((M+H)+.); 241.3 ((M−C(CH3)3+H)+.).

reactant | 4-chloro-aniline | 4.5 mmol, 0.57 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | (S)-2-formyl-azetidine-1-carboxylic acid tert.butyl ester | 9.4 mmol, 1.74 g | C(C)(C)(C)OC(=O)N1[C@@H](CC1)C=O | C9H15NO3
reactant | sodium cyanoborohydride | 9.0 mmol, 0.57 g | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | methanol | 18 ml | CO | CH4O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | (S)-2-[(4-Chloro-phenylamino)-methyl]-azetidine-1-carboxylic acid tert-butyl ester | 0.99 g, 74% | C(C)(C)(C)OC(=O)N1[C@@H](CC1)CNC1=CC=C(C=C1)Cl | C15H21ClN2O2
